US06200999B1
A mixture of ethyl (RS)-2-[(tert-butoxycarbonyl)amino]-3-[3-benzyloxy-5-(ethoxycarbonyl)isoxazol-4-yl]propionate (0.65 mg, 1.4 mmol) and 1 M NaOH (50 mL) was boiled under reflux for 16 h. The mixture was cooled (5° C.), acidified with dilute aqueous HCl, and concentrated in vacuo. The residue was recrystallized from water to give (RS)-2-amino-3-(3-benzyloxy-5-carboxyisoxazol-4-yl)propionic acid (0.1 g, 23%): mp 209-211° C. (dec); 1H NMR (DMSO-d6) δ2.95 (dd, 1 H), 3.05 (dd, 1 H), 3.99 (t, 1 H), 5.26 (s, 2 H), 7.31-7.52 (m, 5 H); MS ((M+H)+) m/z 307. Anal. calcd, C, 54.89; H, 4.62; N, 9.15; found, C, 54.31; H, 4.56; N, 8.97.

reactant | ethyl (RS)-2-[(tert-butoxycarbonyl)amino]-3-[3-benzyloxy-5-(ethoxycarbonyl)isoxazol-4-yl]propionate | 1.4 mmol, 0.65 mg | C(C)(C)(C)OC(=O)NC(C(=O)OCC)CC=1C(=NOC1C(=O)OCC)OCC1=CC=CC=C1 | C23H30N2O8
reactant | HCl | Cl | ClH
solvent | NaOH | 1 M, 50 mL | [OH-].[Na+]
product | (RS)-2-amino-3-(3-benzyloxy-5-carboxyisoxazol-4-yl)propionic acid | 0.1 g, 23% | NC(C(=O)O)CC=1C(=NOC1C(=O)O)OCC1=CC=CC=C1 | C14H14N2O6
